US07312225B2
7a) Production of 2-[4-(3-Nitro-phenoxy)-butyl]-isoindole-1,3-dione
9.67 g (70 mmol) of potassium carbonate is added to a solution of 6.96 g (50 mmol) of 3-nitrophenol in 500 ml DMF, and then it is stirred for 10 minutes at room temperature. It is mixed with 14.1 g (50 mmol) of 2-(4-bromo-butyl)-isoindole-1,3-dione and stirred for 4 hours at 60° C. After cooling, it is mixed with water and extracted with ethyl acetate. The combined organic phases are dried (MgSO4), filtered and concentrated by evaporation. 17.2 g (50 mmol, corresponding to 100% of theory) of the product is obtained.

reactant | potassium carbonate | 70 mmol, 9.67 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-nitrophenol | 50 mmol, 6.96 g | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | 2-(4-bromo-butyl)-isoindole-1,3-dione | 50 mmol, 14.1 g | BrCCCCN1C(C2=CC=CC=C2C1=O)=O | C12H12BrNO2
reactant | water | O | H2O
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
product | 2-[4-(3-Nitro-phenoxy)-butyl]-isoindole-1,3-dione | [N+](=O)([O-])C=1C=C(OCCCCN2C(C3=CC=CC=C3C2=O)=O)C=CC1 | C18H16N2O5
